US08710223B2
The general procedure described in Example 51 was followed. N-(2-cyclopropyl-4-fluoro-5-nitrophenyl)acetamide (2.04 g, 84%) was obtained from 2-cyclopropyl-4-fluoro-5-nitrobenzenamine (described in WO2011068898) and acetyl chloride.

reactant | 2-cyclopropyl-4-fluoro-5-nitrobenzenamine | C1(CC1)C1=C(C=C(C(=C1)F)[N+](=O)[O-])N | C9H9FN2O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(2-cyclopropyl-4-fluoro-5-nitrophenyl)acetamide | 2.04 g, 84% | C1(CC1)C1=C(C=C(C(=C1)F)[N+](=O)[O-])NC(C)=O | C11H11FN2O3
